US08350028B2
N6-Ethyl-N2-(2-phenoxy-ethyl)-quinoline-2,6-diamine
The title compound, MS: m/e=308.4 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 2-phenoxyethylamine and ethylamine (solution in tetrahydrofurane).

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | ethylamine | C(C)N | C2H7N
product | N6-Ethyl-N2-(2-phenoxy-ethyl)-quinoline-2,6-diamine | C(C)NC=1C=C2C=CC(=NC2=CC1)NCCOC1=CC=CC=C1 | C19H21N3O
